US09376422B2
Compound 412: 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)benzamide formate
Methyl 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoate was hydrolyzed to 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoic acid following the same preparation method for 3-{Ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoic acid from its corresponding carboxylate. The crude 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoic acid was then coupled with 3-(Aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt prepared earlier following the preparation method described for N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzamide. After purification by reverse phase HPLC/MS (CAN-H2O containing 0.1% formic acid), the titled compound was obtained. 1H-NMR (500 MHz, CD3OD) δ ppm 8.58-8.24 (br, 1H), 7.15 (d, J=2.0 Hz, 1H), 7.08 (d, J=2.0 Hz, 1H), 6.14 (s, 1H), 4.48 (s, 2H), 4.41-4.34 (m, 1H), 4.25 (br, 2H), 3.85 (br, 2H), 3.00 (q, J=7.0 Hz, 2H), 2.92 (s, 3H), 2.72-2.66 (m, 2H), 2.34 (s, 3H), 2.26 (s, 3H), 1.70-1.61 (m, 2H), 1.04 (t, J=7.2 Hz, 3H), 0.91 (t, J=7.0 Hz, 3H); MS (ES) (M+H) 445.48.

reactant | Methyl 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoate | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CN(C1)C)CC | C15H21ClN2O2
reactant | 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methylbenzoic acid | ClC=1C=C(C(=C(C(=O)O)C1)C)N(C1CN(C1)C)CC | C14H19ClN2O2
reactant | 3-{Ethyl[1-(propan-2-yl)piperidin-4-yl]amino}-2-methyl-5-(trifluoromethyl)benzoic acid | C(C)N(C=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)C)C1CCN(CC1)C(C)C | C19H27F3N2O2
reactant | 3-(Aminomethyl)-6-methyl-4-propyl-1,2-dihydropyridin-2-one HCl salt | Cl.NCC=1C(NC(=CC1CCC)C)=O
reactant | N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(1-methylpiperidin-4-yl)amino]-2-methyl-5-(trifluoromethyl)benzamide | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)C(F)(F)F)N(C1CCN(CC1)C)CC)C)=O | C25H33F3N4O2
product | 5-chloro-3-(ethyl(1-methylazetidin-3-yl)amino)-2-methyl-N-((6-methyl-2-oxo-4-propyl-1,2-dihydropyridin-3-yl)methyl)benzamide formate | C(=O)O.ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2CCC)C)=O)C1)C)N(C1CN(C1)C)CC | InChI=1S/C24H33ClN4O2.CH2O2/c1-6-8-17-9-15(3)27-24(31)21(17)12-26-23(30)20-10-18(25)11-22(16(20)4)29(7-2)19-13-28(5)14-19;2-1-3/h9-11,19H,6-8,12-14H2,1-5H3,(H,26,30)(H,27,31);1H,(H,2,3)
